US05021429
3-(1-Pyrrolidinylmethyl)phenol
Sodium borohydride (15.2 g) was added to a solution of 3-hydroxybenzaldehyde (48.8 g) and pyrrolidine (66.4 ml) in ethanol. After 18 hours the ethanol was removed and the residual oil was acidified with hydrochloric acid and washed with ethyl acetate. The aqueous solution was then basified with ammonia and extracted with ethyl acetate. Evaporation of the organic extracts yielded the title compound as an off-white solid (21.4 g), m.p. 100°-102°. TLC Silica; methanol; 0.88 ammonia (80:1)Rf 0.48.

reactant | Sodium borohydride | 15.2 g | [BH4-].[Na+]
reactant | 3-hydroxybenzaldehyde | 48.8 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | pyrrolidine | 66.4 ml | N1CCCC1 | C4H9N
solvent | ethanol | C(C)O | C2H6O
product | 3-(1-Pyrrolidinylmethyl)phenol | 21.4 g | N1(CCCC1)CC=1C=C(C=CC1)O | C11H15NO
